US06498155B1
a) 4,8,11 -Tris(p-tolylsulfonyl)-1,4,8,11-tetraazacyclotetradecane
A solution of tosyl chloride (8.1 g, 43 mmol) in chloroform (300 mL) was added dropwise over a period of 2 h to a solution of 1,4,8,11-tetraazacyclotetradecane (4.28 g, 21 mmol) in chloroform (150 mL) and triethylamine (18 mL) kept at 45° C. After the mixture stood at room temperature overnight, water (40 mL) was added with stirring. The organic layer was separated, dried (Na2SO4), and evaporated to dryness. The solid residue was dissolved in hot methanol (40 mL) and cooled to room temperature to yield a white oil. The methanol solution was decanted, and the oil triturated with more methanol to give white crystals of 7-H2O of the title compound (5.5 g, 33%). A second crop of the tritosyl derivative was obtained by evaporating the mother liquor of the first crop to dryness, dissolving the resulting sticky oil in chloroform (150 mL) and triethylamine (10 mL), and adding to the solution tosyl chloride (2 g, 10 mmol) dissolved in chloroform (50 mL) at 45° C. in 40 min. Standard workup of the solution gave white crystals of 7-H2O of the title compound (2.1 g, 13%). MS (ESP) m/z 663 [M+H]+.

reactant | tosyl chloride | 43 mmol, 8.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 1,4,8,11-tetraazacyclotetradecane | 21 mmol, 4.28 g | N1CCNCCCNCCNCCC1 | C10H24N4
reactant | water | 40 mL | O | H2O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 18 mL | C(C)N(CC)CC | C6H15N
product | 4,8,11 -Tris(p-tolylsulfonyl)-1,4,8,11-tetraazacyclotetradecane | 5.5 g, 33% | C1(=CC=C(C=C1)S(=O)(=O)N1CCNCCCN(CCN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C31H42N4O6S3
